US05198014
To a stirred, ice-cold solution of 10 mL (0.15 mole) of concentrated aqueous ammonia in 15 mL of tetrahydrofuran was added dropwise a solution of 0.35 gram (0.001 mole) of 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid chloride in 15 mL of tetrahydrofuran. Upon completion of the addition, the cooling bath was removed. The reaction vessel was closed by placing a rubber balloon over the open inlet of the reaction vessel. The reaction mixture was then allowed to warm to ambient temperature where it was stirred for one hour. After this time, the reaction mixture was concentrated at 45° C. under reduced pressure to a residual solid. The solid was triturated with petroleum ether and filtered, yielding a solid that did not completely melt at 212° C. The filtrate was concentrated in an air current, yielding a tan-yellow solid. Both solids were stirred in water separately. Each of the solids was then collected by filtration. The tan-yellow solid was triturated with two drops of isopropyl alcohol and petroleum ether. The suspension was cooled in a dry ice bath, and the solid was collected by filtration. The two solids were combined and dried, yielding 0.18 gram of 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]-acrylamide, m.p. 208°-210° C., dec. The nmr spectrum was consistent with the proposed structure.

reactant | ammonia | 0.15 mole, 10 mL | N | H3N
reactant | 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid chloride | 0.001 mole, 0.35 gram | C(#N)C=1C=NN(C1C=CC(=O)Cl)C1=NC=C(C=C1Cl)C(F)(F)F | C13H5Cl2F3N4O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]-acrylamide | 0.18 gram | C(#N)C=1C=NN(C1C=CC(=O)N)C1=NC=C(C=C1Cl)C(F)(F)F | C13H7ClF3N5O
